US03989507
Methyl 2-((((1-methylethyl)amino)sulfonyl)-amino)-3-pyridine carboxylate
Methyl 2-amino-3-pyridine carboxylate (10.0 grams; 0.066 mole) and isopropyl sulfamoyl chloride (11.4 grams; 0.066 mole) were mixed with 300 ml. of benzene and the resulting reaction mixture heated at reflux temperatures for a period of 48 hours. Following the reaction period, the reaction mixture was cooled and the solvent removed in vacuo. The oily residue thus obtained was extracted with 200 ml. of cyclohexane and the extracts combined and cooled. The resulting precipitate was recovered by filtration and recrystallized from carbon tetrachloride. As a result of these operations, the desired title compound having a melting point of 121°-123° C was obtained.

reactant | Methyl 2-amino-3-pyridine carboxylate | 0.066 mole, 10.0 grams | NC1=NC=CC=C1C(=O)OC | C7H8N2O2
reactant | isopropyl sulfamoyl chloride | 0.066 mole, 11.4 grams | C(C)(C)NS(=O)(=O)Cl | C3H8ClNO2S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Methyl 2-((((1-methylethyl)amino)sulfonyl)-amino)-3-pyridine carboxylate | CC(C)NS(=O)(=O)NC1=NC=CC=C1C(=O)OC | C10H15N3O4S
